US04390541
Trans 1-methyl-7-chloro-4(1H)-quinolone-3-acrylic acid, ethyl ester
A solution of 1-methyl-7-chloro-4(1H)-quinolone-3-acrylic acid (3.6 g) in dry DMF (150 ml) was stirred with anhydrous sodium carbonate (4.36 g) at 70° C. for one hour. To the reaction mixture was then added diethyl sulphate (5.06 g) dropwise, and then stirring at 70° C. was continued for twelve hours.

reactant | 1-methyl-7-chloro-4(1H)-quinolone-3-acrylic acid | 3.6 g | CN1C=C(C(C2=CC=C(C=C12)Cl)=O)C=CC(=O)O | C13H10ClNO3
reactant | sodium carbonate | 4.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl sulphate | 5.06 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Trans 1-methyl-7-chloro-4(1H)-quinolone-3-acrylic acid, ethyl ester | CN1C=C(C(C2=CC=C(C=C12)Cl)=O)/C=C/C(=O)OCC | C15H14ClNO3
